US05532267
6-amidino-2-naphthyl 5-(3-t-butoxycarbonylpropionylaminomethyl)furan-2-carboxylate hydrochloride.
To 11.4 g of mono-t-butyl succinate, 23.5 g of 6-amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrochloride and 0.66 g of DMAP was added 115 ml of pyridine, and the mixture was stirred with ice-cooling. After 10 minutes, 25.6 g of DCC was added and the mixture was stirred for 3 hours while cooling with ice and for 16 hours at room temperature. The precipitated crystals were filtered off, and the filtrate was added in small portions into 2 l of ether and stirred at room temperature for 3 l hours. After removing the supernatant by decantation, 1 l of acetone was added to the residue and stirred for 1 hour. The precipitate was collected by filtration, then dissolved in 60 ml of methanol and 3 g of active carbon was added to the solution. The mixture was stirred for 30 minutes while cooling with ice, then the insolubles were filtered off and the filtrate was added into 1.5 l of acetone. The mixture was stirred for 5 hours while cooling with ice, and the precipitated crystals were collected by filtration to obtain 21 g of the intended product.

reactant | mono-t-butyl succinate | 11.4 g | C(CCC(=O)[O-])(=O)OC(C)(C)C
reactant | 6-amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrochloride | 23.5 g | Cl.Cl.NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N
reactant | DCC | 25.6 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.66 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 115 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl 5-(3-t-butoxycarbonylpropionylaminomethyl)furan-2-carboxylate hydrochloride | 21 g | Cl.C(C)(C)(C)OC(=O)CCC(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C25H27N3O6.ClH/c1-25(2,3)34-22(30)11-10-21(29)28-14-19-8-9-20(32-19)24(31)33-18-7-6-15-12-17(23(26)27)5-4-16(15)13-18;/h4-9,12-13H,10-11,14H2,1-3H3,(H3,26,27)(H,28,29);1H
